US04180583
4-[4-(Diphenylmethylene)piperidino]-1-(2-thienyl)-1-butanone hydrochloride
A mixture of 22.8 g (0.05 mole) of 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-1-(2-thienyl)butan-1-one hydrochloride, 500 ml of isopropyl alcohol and 500 ml of concentrated HCl was heated on a steam bath for 3 hours, and the solvent was removed under vacuum. Isopropyl alcohol and 300 ml of water were added to the residue and heated to 80° C. Upon cooling a precipitate formed which was collected and recrystallized from methanol-ethyl acetate and toluene to give the desired product, M.P. 132.5°-134.5° C.

reactant | 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-1-(2-thienyl)butan-1-one hydrochloride | 0.05 mole, 22.8 g | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C=1SC=CC1
reactant | HCl | 500 ml | Cl | ClH
solvent | isopropyl alcohol | 500 ml | C(C)(C)O | C3H8O
product | 4-[4-(Diphenylmethylene)piperidino]-1-(2-thienyl)-1-butanone hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCC(=O)C=1SC=CC1)C1=CC=CC=C1 | InChI=1S/C26H27NOS.ClH/c28-24(25-14-8-20-29-25)13-7-17-27-18-15-23(16-19-27)26(21-9-3-1-4-10-21)22-11-5-2-6-12-22;/h1-6,8-12,14,20H,7,13,15-19H2;1H
